US08008298B2
A suspension of (4-methyl-tetrahydro-thiopyran-4-yl)-[2-(3,4,5-trimethoxy-phenyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-methanone (9 mg, 0.02 mmol) in acetonitrile (0.4 ml), MeOH (0.4 ml), and water (0.2 ml) was treated with Oxone (26 mg, 0.04 mmol) and stirred overnight at room temperature. The reaction mixture was partitioned between EtOAc/water. The organic layers were collected, dried over Na2SO4, filtered, and concentrated. The residue was purified by preparative thin layer chromatography using 30% EtOAc in hexanes as eluant to provide 6 mg (62%) of (4-methyl-1,1-dioxo-hexahydro-1lambda*6*-thiopyran-4-yl)-[2-(3,4,5-trimethoxy-phenyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-methanone as an off white solid. M+H=460.

reactant | (4-methyl-tetrahydro-thiopyran-4-yl)-[2-(3,4,5-trimethoxy-phenyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-methanone | 0.02 mmol, 9 mg | CC1(CCSCC1)C(=O)C1=CNC2=NC=C(N=C21)C2=CC(=C(C(=C2)OC)OC)OC | C22H25N3O4S
reactant | water | 0.2 ml | O | H2O
reactant | Oxone | 0.04 mmol, 26 mg | OOS(=O)[O-].[K+]
solvent | acetonitrile | 0.4 ml | C(C)#N | C2H3N
solvent | MeOH | 0.4 ml | CO | CH4O
product | (4-methyl-1,1-dioxo-hexahydro-1lambda*6*-thiopyran-4-yl)-[2-(3,4,5-trimethoxy-phenyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-methanone | 6 mg, 62% | CC1(CCS(CC1)(=O)=O)C(=O)C1=CNC2=NC=C(N=C21)C2=CC(=C(C(=C2)OC)OC)OC | C22H25N3O6S
